US09302989B2
6-bromo-4-(3-(tert-butyldiphenylsilyloxy)propyl)quinolin-2(1H)-one
6-Bromo-4-(3-hydroxypropyl)quinolin-2(1H)-one (4.7 g, 16.67 mmoles), imidazole (2.84 g, 41.7 mmoles) and tert-butyldiphenylsilyl chloride (5.14 mL, 20 mmoles) were stirred in dimethylformamide (60 mL) overnight at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate twice. The organic layers were combined, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by normal phase chromatography to provide the title compound.

reactant | 6-Bromo-4-(3-hydroxypropyl)quinolin-2(1H)-one | 16.67 mmoles, 4.7 g | BrC=1C=C2C(=CC(NC2=CC1)=O)CCCO | C12H12BrNO2
reactant | imidazole | 41.7 mmoles, 2.84 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 20 mmoles, 5.14 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 6-bromo-4-(3-(tert-butyldiphenylsilyloxy)propyl)quinolin-2(1H)-one | BrC=1C=C2C(=CC(NC2=CC1)=O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H30BrNO2Si
